US07820675B2
tert-Butyl trans-3-fluoro-4-[(5-nitro-1-benzofuran-7-yl)oxy]piperidine-1-carboxylate
7-Iodo-5-nitrobenzofuran (2.0 g, 6.9 mmol), tert-butyl 3-fluoro-4-hydroxypiperidine-1-carboxylate* (3.8 g, 17.3 mmol; mixture of cis/trans isomers), 1,10-phenanthroline (0.50 g, 2.8 mmol), CuI (0.26 g, 1.4 mmol) and Cs2CO3 (4.5 g, 13.8 mmol) were heated in toluene (20 mL) at 120° C. for 72 h. The reaction mixture was filtered through Celite and evaporated. The resulting diastereomers were separated by flash chromatography using heptane/EtOAc [(4:1)→(2:1)] to yield 255 mg of the cis-isomer and 919 mg of the trans-isomer. *Prepared according to the procedure described in WO2001085728.

reactant | 7-Iodo-5-nitrobenzofuran | 6.9 mmol, 2.0 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | tert-butyl 3-fluoro-4-hydroxypiperidine-1-carboxylate | FC1CN(CCC1O)C(=O)OC(C)(C)C | C10H18FNO3
reactant | 1,10-phenanthroline | 2.8 mmol, 0.50 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 13.8 mmol, 4.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 1.4 mmol, 0.26 g | [Cu]I
product | tert-Butyl trans-3-fluoro-4-[(5-nitro-1-benzofuran-7-yl)oxy]piperidine-1-carboxylate | F[C@@H]1CN(CC[C@H]1OC1=CC(=CC=2C=COC21)[N+](=O)[O-])C(=O)OC(C)(C)C | C18H21FN2O6
